US06623955B2
4-methylumbelliferyl-2-acetamido-4, 6-O-benzylidene-2-deoxy-β-D-glucopyranoside;
4-methylumbelliferyl acetate; 4-methylumbelliferyl-N-acetyl-β-D-galactosaminide;

reactant | 4-methylumbelliferyl acetate | CC1=CC(=O)OC2=C1C=CC(=C2)OC(=O)C | C12H10O4
reactant | 4-methylumbelliferyl-N-acetyl-β-D-galactosaminide | CC1=CC(=O)OC2=C1C=CC(=C2)OC3C(C(C(C(O3)CO)O)O)NC(=O)C | C18H21NO8
product | 4-methylumbelliferyl 2-acetamido-4, 6-O-benzylidene-2-deoxy-β-D-glucopyranoside | CC1=CC(=O)OC2=CC=CC=C12.CC(=O)N[C@@H]1[C@H]([C@H]2[C@@H](COC(O2)C3=CC=CC=C3)OC1O)O | InChI=1S/C15H19NO6.C10H8O2/c1-8(17)16-11-12(18)13-10(21-14(11)19)7-20-15(22-13)9-5-3-2-4-6-9;1-7-6-10(11)12-9-5-3-2-4-8(7)9/h2-6,10-15,18-19H,7H2,1H3,(H,16,17);2-6H,1H3/t10-,11-,12-,13-,14?,15?;/m1./s1
